US06949554B2
A. Synthesis of Piperazine 2-carboxylic acid ethyl ester
To a solution of 4-Benzhydryl-piperazine-2-carboxylic acid ethyl ester (0.5 g, 1.54 mmol) in dry CH2Cl2 (25 ml) was added 3,3-diphenylpropanoic acid (0.35 g, 1.54 mmol) under nitrogen. To the reaction was added EDC (0.59 g, 3.08 mmol) and DMAP (cat) and the reaction mixture stirred under nitrogen at room temperature overnight. The reaction was then concentrated under reduced pressure. The residue dissolved in ethyl acetate: water (10:1) (100 ml). The organic was washed with water (20 ml, 2×) and 10% NaOH (20 ml) and dried over MgSO4 and evaporated to dryness. The resulting residue was purified by column chromatography using hexane: ethyl acetate (3:1) to give title compound in 73% yield.

reactant | 4-Benzhydryl-piperazine-2-carboxylic acid ethyl ester | 1.54 mmol, 0.5 g | C(C)OC(=O)C1NCCN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2O2
reactant | 3,3-diphenylpropanoic acid | 1.54 mmol, 0.35 g | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | EDC | 3.08 mmol, 0.59 g
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | Piperazine 2-carboxylic acid ethyl ester | 73% yield | C(C)OC(=O)C1NCCNC1 | C7H14N2O2
